US05434303
2000 g (34.5 mol) of potassium fluoride are introduced into 7 liters of diethylene glycol, and the mixture is treated with 500 ml of toluene at room temperature. The toluene is distilled off at 150° C., and the mixture is then allowed to cool to 100° C., and 1500 g (5 mol) of 4-chloro-phenyl 1-bromo-3-chloro-n-propyl ketone are added in portions in the course of 15 minutes. The reaction mixture is heated for 4 hours at 150° C. and then cooled and poured into 10 liters of water. The resulting mixture is extracted five times with 2 liters of toluene per extraction, and the combined organic phases are washed with water, dried over magnesium sulphate and concentrated by stripping off the solvent under reduced pressure. The residue which remains is distilled under a high vacuum, and the distillate collected is subjected to fractional distillation under a high vacuum, using a spinning band column. In this manner, 100 g (10% of theory) of 1-fluorocyclopropyl 4-chlorophenyl ketone are obtained in the form of a liquid of boiling point 70°-76° C. at 0.03 mbar.

reactant | potassium fluoride | 34.5 mol, 2000 g | [F-].[K+]
reactant | diethylene glycol | 7 liters | C(COCCO)O | C4H10O3
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-chloro-phenyl 1-bromo-3-chloro-n-propyl ketone | 5 mol, 1500 g | BrC(CCCl)C(=O)C1=CC=C(C=C1)Cl | C10H9BrCl2O
solvent | water | 10 liters | O | H2O
product | 1-fluorocyclopropyl 4-chlorophenyl ketone | 100 g, 10% | ClC1=CC=C(C=C1)C(=O)C1(CC1)F | C10H8ClFO
